US04797391
A mixture of 5,6-dichloro-1,2,9,9a-tetrahydro-7-methoxy-9a-propyl-3H-fluoren-3-one (3.25 g, 0.01 mol), N-bromosuccinimide (1.78 g, 0.01 mole) and benzoyl peroxide (75 mg) in carbon tetrachloride (50 ml) was heated at reflux for 13/4 hours, cooled, filtered and the CCl4 distilled at reduced pressure to give 3.70 g 9-bromo-5,6-dichloro-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one which melted at 131.5°-133.5° C. after crystallization from diethyl ether.

reactant | 5,6-dichloro-1,2,9,9a-tetrahydro-7-methoxy-9a-propyl-3H-fluoren-3-one | 0.01 mol, 3.25 g | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)OC)CCC)=O | C17H18Cl2O2
reactant | N-bromosuccinimide | 0.01 mole, 1.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 75 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 9-bromo-5,6-dichloro-7-methoxy-9a-propyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 3.70 g | BrC1C2=CC(=C(C(=C2C2=CC(CCC12CCC)=O)Cl)Cl)OC | C17H17BrCl2O2
